US07855297B2
By the reaction and treatment of diethylene glycol monobutyl ether (1.0 mL) and 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.96 g) in the same manner as in Example 394, 5-benzyloxy-N-({1-[2-(2-butoxyethoxy)ethyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.94 g) was obtained.

reactant | diethylene glycol monobutyl ether | 1.0 mL | C(CCC)OCCOCCO | C8H18O3
reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.96 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C | C30H32N4O2
product | 5-benzyloxy-N-({1-[2-(2-butoxyethoxy)ethyl]pyrazol-4-yl}methyl)-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.94 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C=NN(C1)CCOCCOCCCC | C38H48N4O4
